US06608203B2
2,2,2-Trifluoro-1-[6-hydroxy-1-(4-hydroxyphenyl)-3,4-dihydro-1H-isoquinolin-2-yl]ethanone
A 1M solution of BBr3 in CH2Cl2 (6.0 ml, 6.0 mmol) was added slowly to a solution of 1-[1-(4-benzyloxyphenyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-2,2,2-trifluoroethanone (1.054 g, 2.4 mmol) in anhydrous CH2Cl2 (100 ml) at 0° C. under N2. The reaction mixture was warmed to rt and stirred at rt for 17 hr. MeOH (50 ml) was slowly added with stirring and the resulting solution was concentrated in vacuo to a red oil. This was dissolved in MeOH (20 ml) and 1M HCl (20 ml), and the resulting solution was stirred at rt for 4 hr, then neutralized with saturated NaHCO3 solution (60 ml). The resulting suspension was concentrated in vacuo and the remaining material was extracted with EtOAc (4×30 ml). The combined extracts were dried over MgSO4 and evaporated in vacuo to give 0.775 g of crude brown solid. Purification by flash chromatography, eluting with hexane:EtOAc (1:1) gave 0.080 g (10% yield) of white solid.

reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | 1-[1-(4-benzyloxyphenyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-2,2,2-trifluoroethanone | 2.4 mmol, 1.054 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1N(CCC2=CC(=CC=C12)OC)C(C(F)(F)F)=O | C25H22F3NO3
reactant | MeOH | 50 ml | CO | CH4O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 6.0 mmol, 6.0 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-[6-hydroxy-1-(4-hydroxyphenyl)-3,4-dihydro-1H-isoquinolin-2-yl]ethanone | 0.080 g, 10% yield | FC(C(=O)N1C(C2=CC=C(C=C2CC1)O)C1=CC=C(C=C1)O)(F)F | C17H14F3NO3
